US08039472B2
To (S)-3-[4-(4-Hydroxy-butyl)-phenoxy]-propane-1,2-diol (43 g, 179 mmol) in THF (700 ml) is added 2,2-dimethoxypropane (94 ml, 760 mmol) followed by PPTS (4.5 g, 17.9 mmol). The resultant mixture is stirred at room temperature overnight. The solution is concentrated in vacuo and the residue taken up in DCM (500 ml). This is washed with water, dried (MgSO4) and concentrated in vacuo. The residue is purified through a silica plug (300 g) eluting with 10% followed by 25% EtOAc/iso-hexanes. The desired fractions are concentrated to give 4-[4-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-butan-1-ol as a clear oil; 1H NMR (CDCl3): 1.42, (3H, s), 1.48 (3H, s), 1.53-1.73 (4H, m), 2.20 (1H, t, J=2.5 Hz), 2.60 (2H, t, J=7.2 Hz), 3.68 (2H, t, J=6.4 Hz), 3.92 (2H, dt, J=5.8 and 8.5 Hz), 4.07 (1H, dd, J=5.4 and 9.5 Hz), 4.19 (1H, dd, J=6.4 and 8.5 Hz), 4.49 (1H, p, J=5.7 Hz), 6.85 (2H, d, J=8.7 Hz), 7.11 (2H, d, J=8.7 Hz).

reactant | (S)-3-[4-(4-Hydroxy-butyl)-phenoxy]-propane-1,2-diol | 179 mmol, 43 g | OCCCCC1=CC=C(OC[C@H](CO)O)C=C1 | C13H20O4
reactant | 2,2-dimethoxypropane | 760 mmol, 94 ml | COC(C)(C)OC | C5H12O2
reactant | PPTS | 17.9 mmol, 4.5 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | THF | 700 ml | C1CCOC1 | C4H8O
product | 4-[4-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-butan-1-ol | CC1(OC[C@H](O1)COC1=CC=C(C=C1)CCCCO)C | C16H24O4
